US04970318
4-Guanidino-N-(6-nitrobenzothiazol-2-yl)benzamide hydrochloride (I,X=6-NO2 ; W and Y=H; Z=H; m=1; n=0, and R3, R4 and R5 =H)
To a stirred, cold (-5° C.) solution of 1.07 g. of 4-guanidinobenzoic acid hydrochloride and 740 mg. of 1-hydroxybenzotriazole in 8 ml. of dimethylformamide was added 1.12 g. of dicyclohexylcarbodiimide in one portion. After two hours at 0° C., 950 mg. of 6-nitro-2-aminobenzothiazole was added and the reaction mixture was stirred at room temperature for two hours. The mixture was filtered and the filtrate applied to 35 g. of ionexchange resin GC 50 (H+ form). The column was washed with 200 ml. of water and sufficient methane until the washliquid became colorless. Following a second water/methanol wash the product was eluted from the column using a 0.05 M hydrochloric acid in methanol solution. The fractions containing the product are combined, concentrated to dryness and recrystallized from methanol, 60 mg., m.p. 311-329° C.

reactant | 4-guanidinobenzoic acid hydrochloride | Cl.N(C(=N)N)C1=CC=C(C(=O)O)C=C1
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-nitro-2-aminobenzothiazole | [N+](=O)([O-])C1=CC2=C(N=C(S2)N)C=C1 | C7H5N3O2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Guanidino-N-(6-nitrobenzothiazol-2-yl)benzamide hydrochloride | Cl.N(C(=N)N)C1=CC=C(C(=O)NC=2SC3=C(N2)C=CC(=C3)[N+](=O)[O-])C=C1 | InChI=1S/C15H12N6O3S.ClH/c16-14(17)18-9-3-1-8(2-4-9)13(22)20-15-19-11-6-5-10(21(23)24)7-12(11)25-15;/h1-7H,(H4,16,17,18)(H,19,20,22);1H
